US07858800B2
5) Production of isopropyl 4-[1-(2-fluorophenyl)-5-methoxymethyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate
tert-Butyl 4-[1-(2-fluorophenyl)-5-methoxymethyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate (5.4 mg) prepared in the above 4) was dissolved in 2.0 ml of a 10% methanolic solution of hydrochloric acid followed by stirring at room temperature for 30 minutes. The solvent was evaporated in vacuo followed, without purification, by dissolving in 0.5 ml of pyridine and 0.02 ml of isopropyl chloroformate was added to the solution followed by stirring for 1 hour. A saturated aqueous solution of ammonium chloride was added to the reaction solution, the mixture was extracted with ethyl acetate, the extract was dried over sodium sulfate and the solvent was evaporated in vacuo. The resulting residue was separate and purified by a thin-layer chromatography (ethyl acetate/hexane=1/2) to give 4.27 mg of the title compound as a white solid.

reactant | tert-Butyl 4-[1-(2-fluorophenyl)-5-methoxymethyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate | 5.4 mg | FC1=C(C=CC=C1)N1N=NC(=C1COC)C=1CCN(CC1)C(=O)OC(C)(C)C | C20H25FN4O3
solvent | hydrochloric acid | Cl | ClH
product | isopropyl 4-[1-(2-fluorophenyl)-5-methoxymethyl-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate | 4.27 mg | FC1=C(C=CC=C1)N1N=NC(=C1COC)C=1CCN(CC1)C(=O)OC(C)C | C19H23FN4O3
